US09382228B2
A mixture of 5-fluoro-4-methyl-2-nitropyridine (2.75 g, 17.6 mmol), 4-hydroxy-2-chloropyridine (3.42 g, 26.4 mmol) and K2CO3 (2.44 g, 17.6 mmol) in DMF (40 mL) was heated at 80° C. for 16 h. The mixture was cooled to RT, diluted with water (400 mL) and extracted with EtOAc (3×100 mL). The combined organics were washed with water (100 mL) and 10% aq. LiCl (80 mL), dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford 5-((2-chloropyridin-4-yl)oxy)-4-methyl-2-nitropyridine (3.0 g, 64%) as an off-white solid. MS (ESI) m/z: 266.0 (M+H+).

reactant | 5-fluoro-4-methyl-2-nitropyridine | 17.6 mmol, 2.75 g | FC=1C(=CC(=NC1)[N+](=O)[O-])C | C6H5FN2O2
reactant | 4-hydroxy-2-chloropyridine | 26.4 mmol, 3.42 g | OC1=CC(=NC=C1)Cl | C5H4ClNO
reactant | K2CO3 | 17.6 mmol, 2.44 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | 5-((2-chloropyridin-4-yl)oxy)-4-methyl-2-nitropyridine | 3.0 g, 64% | ClC1=NC=CC(=C1)OC=1C(=CC(=NC1)[N+](=O)[O-])C | C11H8ClN3O3
